US07544697B2
Sodium hydroxide (12 mL, 6M) was added to a solution of ethyl 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylate (13.3 g, 35.1 mmol) in 100 mL of ethanol and heated to reflux overnight. The reaction mixture was concentrated under reduced pressure and the residue was diluted with 100 mL of water. The aqueous layer was extracted with several portions of ethyl acetate. The pH of the aqueous layer was adjusted to approximately 2-3 with aqueous hydrochloric acid and was then extracted with several portions of ethyl acetate. The combined organic layers originating from extraction of the aqueous layer were washed with brine, dried over magnesium sulfate, filtered, and concentrated to afford 10.5 g of 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylic acid.

reactant | Sodium hydroxide | 6M, 12 mL | [OH-].[Na+]
reactant | ethyl 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylate | 35.1 mmol, 13.3 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C(=O)OCC | C19H26N2O4S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylic acid | 10.5 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C(=O)O | C17H22N2O4S
